US04863921
A mixture of 2 g methyl 2-chloro-cis-5a,6,7,8,9,9a-hexahydrodibenzofuran-4-carboxylate in 30 ml 1N sodium hydroxide and 5 ml dioxane is stirred at 60° C. for 5 hours. This is then diluted with water, filtered, acidified with acetic acid, extracted with ethyl acetate, dried over magnesium sulfate and evaporated to dryness to obtain an oily product which crystallizes on standing. This is recrystallyzed to obtain 2-chloro-cis-5a,6,7,8,9,9a-hexahydrodibenzo-furan-4-carboxylic acid. (M.P. 132°-134° C.)

reactant | methyl 2-chloro-cis-5a,6,7,8,9,9a-hexahydrodibenzofuran-4-carboxylate | 2 g | ClC1=CC2=C(O[C@H]3[C@@H]2CCCC3)C(=C1)C(=O)OC | C14H15ClO3
solvent | sodium hydroxide | 1N, 30 ml | [OH-].[Na+]
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 2-chloro-cis-5a,6,7,8,9,9a-hexahydrodibenzo-furan-4-carboxylic acid | ClC1=CC2=C(O[C@H]3[C@@H]2CCCC3)C(=C1)C(=O)O | C13H13ClO3
